Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Fosamax / Penicillins / Sulfa (Sulfonamide 
Antibiotics) / amitriptyline
 
Attending: ___
 
Chief Complaint:
Chest tightness
 
Major Surgical or Invasive Procedure:
Coronary angiography ___
 
History of Present Illness:
___ year old woman with ___ transferred from ___ 
___ with exertional chest tightness and dyspnea x4 days.

She states that on ___, she was in ___ at a ___ 
service for her mother (who passed recently from an MI at age 
___. There, she was ambulating and felt sudden onset tightening 
in her chest that lasted approximately 5 minutes. She also had 
associated shortness of breath. Over the weekend, she continued 
to feel tired. On ___, she felt short of breath going up 3 
flights of stairs carrying her luggage. On ___, she 
felt a "fluttering" in her chest that was intermittent. She 
initially thought it was heartburn, but took 3 Tums, which did 
not resolve the sensation. She also had some radiation possibly 
of this sensation down her left arm.

For this, she went to her PCP's office on ___ and then was 
referred her to ___ due to anterior T wave inversions on 
ECG. At ___, troponin-T was 0.056 with MB 4.7, then 
repeated at troponin-T 0.051 with MB 4.3. CXR was performed but 
no report. Due to concern for NSTEMI and ? ___ pattern, the 
patient was transferred to to ___ for coronary angiography. 
She received full-dose ASA and was started on heparin drip prior 
to transfer. She says she has not had any chest discomfort since 
yesterday at ___ pm. 

In the ___ ED, initial vitals were: T 98.5 HR 76 BP 154/94 RR 
16 SaO2 97% on RA. EKG showed biphasic T waves in  V2-V4, new 
from EKG in ___. Labs/studies notable for troponin-T 0.03, 
normal CBC, normal chemistry panel (Cr 0.7), PTT 110.2 on 
heparin gtt. Vitals on transfer: T 98.9 HR 72 BP 100/46 RR 16 
SaO2 100% on RA.

After arrival to the cardiology ward, the patient denied any 
chest pain or tightness, shortness of breath, orthopnea, 
paroxysmal nocturnal dyspnea, lower extremity swelling, syncopal 
episodes, nausea, vomiting, diaphoresis. She says that she takes 
some intermittent propranolol for anxiety from public speaking.

REVIEW OF SYSTEMS: Positive per HPI.
On further review of systems, she denied fevers or chills. She 
denied any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. She 
denied exertional buttock or calf pain. All of the other review 
of systems were negative.
 
Past Medical History:
1. CAD RISK FACTORS  
- Diabetes (-)
- Hypertension (-)
- Dyslipidemia (+)
2. CARDIAC HISTORY h/o normal echo in ___  
3. OTHER PAST MEDICAL HISTORY
-Dysthymic disorder
-Palpitations (during public speaking)
-GERD
-Osteopenia
-Colonic adenoma
-Bilateral sensorineural hearing loss
 
Social History:
___
Family History:
Her mother passed away at age ___ recently of MI. Her maternal 
grandmother also had angina and passed away from MI at age ___.
 
Physical Exam:
On admission
GENERAL: Well developed, well nourished late middle aged white 
woman in NAD. Oriented x3. Mood, affect appropriate.
VS: T 97.9 BP 124/86 HR 77 RR 18 SaO2 98% on RA
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP flat.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: No chest wall deformities or tenderness. No crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

At discharge
GENERAL: Well developed, well nourished woman in NAD. Oriented 
x3. Mood, affect appropriate.
Vitals: T 98.0, BP 100/42 (87-120 systolic), HR 66-78, SPO2 95% 
on RA
HEENT: Normocephalic atraumatic. Sclera anicteric. Conjunctiva 
were pink. No pallor or cyanosis of the oral mucosa. No 
xanthelasma.
NECK: Supple. JVP flat.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: No chest wall deformities or tenderness. No crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
___ 03:35AM BLOOD WBC-7.9 RBC-4.14 Hgb-12.6 Hct-38.7 MCV-94 
MCH-30.4 MCHC-32.6 RDW-13.9 RDWSD-46.7* Plt ___
___ 03:35AM BLOOD Neuts-52.1 ___ Monos-6.2 Eos-3.3 
Baso-0.6 Im ___ AbsNeut-4.10 AbsLymp-2.97 AbsMono-0.49 
AbsEos-0.26 AbsBaso-0.05
___ 03:35AM BLOOD ___ PTT-110.2* ___

___ 03:35AM BLOOD Glucose-127* UreaN-10 Creat-0.7 Na-143 
K-3.8 Cl-105 HCO3-23 AnGap-19
___ 03:35AM BLOOD cTropnT-0.03*

___ 06:08AM BLOOD WBC-5.8 RBC-4.03 Hgb-12.2 Hct-38.0 MCV-94 
MCH-30.3 MCHC-32.1 RDW-14.0 RDWSD-48.1* Plt ___
___ 06:08AM BLOOD Glucose-105* UreaN-9 Creat-0.8 Na-138 
K-4.0 Cl-102 HCO3-25 AnGap-15
___ 06:08AM BLOOD Calcium-9.5 Phos-4.1 Mg-2.2

ECG ___ 2:53:20 AM
Sinus rhythm with first degree A-V conduction delay. 
Non-specific ST-T wave abnormalities. No previous tracing 
available for comparison.

Echocardiogram ___
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
hypokinesis of the distal left ventricle and apex. The remaining 
segments contract normally (LVEF = 45-50%). No masses or thrombi 
are seen in the left ventricle. Tissue Doppler imaging suggests 
an increased left ventricular filling pressure (PCWP>18mmHg). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is an 
anterior space which most likely represents a prominent fat pad. 
A trivial circumferential pericardial effusion is seen.
IMPRESSION: Distal left ventricular dysfunction c/w stress 
cardiomyopathy, but cannot exclude CAD (eg distal LAD disease), 
with mildly reduced ejection fraction. Mild mitral 
regurgitation. 

Coronary angiography ___
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery: The LMCA is free of angiographic 
CAD.
* Left Anterior Descending: The LAD is free of angiographic CAD.
* Circumflex: The Circumflex is free of angiographic CAD.
* Right Coronary Artery: The RCA is free of angiographic CAD.
Intra-procedural Complications: None
Impressions:
1. No obstructive CAD.
 
Brief Hospital Course:
___ y/o woman with hyperlipidemia and family history of ___ 
transferred from ___ with anginal symptoms, EKG 
concerning for ___ sign, and mild troponin elevation 
consistent with a NSTEMI.

ACTIVE ISSUES
# Takotsubo's cardiomyopathy: Patient was transferred from 
___ after having episodes of chest tightness on exertion 
and associated shortness of breath. She was found to have 
troponin-T to 0.05 ___nd normal CK-MB. EKG concerning 
for ___ criteria suggestive of proximal LAD disease, so she 
was transferred to ___ on ___ after receiving full dose ASA 
and started on heparin gtt. Notably, her mother passed away in 
___ from MI and she had these symptoms at her mother's ___ 
service on ___. Echocardiogram showed LVEF 45-50% and distal LV 
dysfunction consistent with stress cardiomyopathy. Coronary 
angiography showed no flow-limiting CAD, consistent with 
Takotsubo stress-induced cardiomyopathy. She was started on 
metoprolol succinate 25 mg daily. She was not started on an ACE 
inhibitor due to lower blood pressures. She will follow-up with 
cardiology as an outpatient and have a repeat TTE to assess 
recovery of LVEF.

CHRONIC ISSUES
# Hyperlipidemia: She was started on atorvastatin 40 mg instead 
of her home simvastatin given evidence of myocardial necrosis.

TRANSITIONAL ISSUES
# Patient discharged on metoprolol succinate 25 mg daily. She 
did not require diuretics. Unable to start ACE-inhibitor due to 
low blood pressure 
# Please check metabolic panel at primary care follow-up 
appointment to monitor renal function.
# Repeat TTE in ___ weeks to assess LVEF. 

# CODE: Full
# CONTACT: daughter (___) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Calcium Carbonate 500 mg PO QID:PRN heartburn 
3. Aspirin 81 mg PO DAILY 
 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Calcium Carbonate 500 mg PO QID:PRN heartburn
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Stress induced (Takotsubo's) cardiomyopathy, with
# Myocardial necrosis
# Hyperlipidemia
# Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted after having chest tightness and a 
concerning EKG. You had an echocardiogram, which showed a 
decrease in your heart pumping function, in a pattern consistent 
with "stress cardiomyopathy" or dysfunction in the main heart 
muscle due to severe stress. You also had a cardiac 
catheterization, which fortunately did not show coronary artery 
disease. We believe that your symptoms and testing are 
consistent with stress cardiomyopathy (also known as 
broken-heart syndrome). For this, we have placed you on heart 
medications and we anticipate that this condition should improve 
over time. You have an appointment scheduled with a cardiologist 
after you return from your ___ vacation and you should have 
a follow-up echocardiogram as an outpatient.

You are also scheduled to see your primary care doctor in one 
week. Please keep this appointment to make sure you are doing 
well after discharge.  

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___